US07544689B2
(2S, 3R)-3-(Trityl-amino)-pentan-2-ol
To a stirred suspension of CuBr.SMe2 (2.74 g, 2.2 eq, 13.33 mmol) in Et2O (100 mL) under an argon atmosphere at −70° C., was added methyllithium (1.6 M in Et2O, 16.6 mL, 4.4 eq, 26.56 mmol) dropwise, and the solution allowed to warm to room temperature. The mixture was recooled to −70° C., to which was added a solution of (R)-2-(trityl-amino)-butyraldehyde (2 g, 1 eq, 6.05 mmol) in Et2O (25 mL) dropwise with stirring. The reaction mixture was stirred at this temperature for 2 h, when TLC (hexane:ether; 80:20) indicated that the reaction had gone to completion. To the reaction mixture was added a saturated aqueous solution of NH4Cl (100 mL) and allowed to warm to room temperature over 16 h. The reaction mixture was extracted with ether (2×200 mL), and the combined organic phase washed with brine (50 mL), dried (MgSO4) and evaporated in vacuo. The residue was purified by silica gel column chromatography, eluted with hexane:ether (80:20) to afford the title compound as a light yellow oil. Yield: 1.91 g (91%). (80% de 2S,3R: 20% de 2R,3R). 1H-NMR (d6-DMSO, 250 MHz): δ 0.47 & 0.55 (2×t, J=7.43 & 7.27 Hz, —NHCH(CH2CH3) CH(CH3)OH), 0.99-1.12 (m, 5H, —NHCH(CH2CH3)CH(CH3)OH), 2.03 (m, 1H, —NHCH(CH2CH3)CH(CH3)OH), 3.32-3.51 (m, 1H, —NHCH(CH2CH3) CH(CH3)OH), 4.40 (d, 1H, J=3.79 Hz, —NHCH(CH2CH3)CH(CH3)OH), 7.14-7.51 (m, 15H, 3×Ph).

reactant | SMe2 | 13.33 mmol, 2.74 g, 2.2 eq | S(C)C | C2H6S
reactant | methyllithium | 26.56 mmol, 1.6 M, 16.6 mL, 4.4 eq | C[Li]
reactant | (R)-2-(trityl-amino)-butyraldehyde | 6.05 mmol, 2 g, 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H](C=O)CC | C23H23NO
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | Et2O | 25 mL | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | (2S, 3R)-3-(Trityl-amino)-pentan-2-ol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H]([C@H](C)O)CC | C24H27NO
